datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCC1=C([O-:10])N2c3cc(C)ccc3N=C(N(C)C)N2C1=O.CCCSCC[N+:21](CC)(CC)[H:20]>>CCCC1=C([O:10][H:20])N2c3cc(C)ccc3N=C(N(C)C)N2C1=O.CCCSCC[N:21](CC)CC 10=20;20,21=21",
"C1CN(CC[N+:21]2([H:20])CCOCC2)CCO1.CN[C@H]1C[C@@H]1[NH:10]C>>C1CN(CC[N:21]2CCOCC2)CCO1.CN[C@H]1C[C@@H]1[NH+:10](C)[H:20] 10=20;20,21=21",
"CC[N+:21](CC)(CCCCNc1cc[nH+]c2ccccc12)[H:20].COc1ccc([O-:10])cc1C>>CC[N:21](CC)CCCCNc1cc[nH+]c2ccccc12.COc1ccc([O:10][H:20])cc1C 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].Oc1ccccc1C[NH:10]C1CCCCC1>>O=C1SC2=C(C=CC=C2)[CH-:21]1.Oc1ccccc1C[NH+:10](C1CCCCC1)[H:20] 10=20;20,21=21",
"CCc1cc2ccc3cccnc3c2[n+:21]([H:20])c1.Cc1cc(-c2ccc([NH2:10])c(C)c2)ccc1N>>CCc1cc2ccc3cccnc3c2[n:21]c1.Cc1cc(-c2ccc([NH2+:10][H:20])c(C)c2)ccc1N 10=20;20,21=21",
"O=C([O-])c1cc[n:10]c2ccccc12.c1ccc(CCNc2ncnc3nc[n:21]([H:20])c23)cc1>>O=C([O-])c1cc[n+:10]([H:20])c2ccccc12.c1ccc(CCNc2ncnc3nc[n-:21]c23)cc1 10=20;20,21=21",
"[NH3+][C@@H](Cc1c[nH]c[n:10]1)C(=O)N[C@@H](Cc1c[nH]c[nH+]1)C(=O)[O-].[O-]c1cc2ccccc2n[n+:21]1[H:20]>>[NH3+][C@@H](Cc1c[nH]c[n+:10]1[H:20])C(=O)N[C@@H](Cc1c[nH]c[nH+]1)C(=O)[O-].[O-]c1cc2ccccc2n[n:21]1 10=20;20,21=21",
"CC1(C)CCC(C2CCC(C)(C)[NH:10]2)N1.CC[N+:21]1([H:20])CC1>>CC1(C)CCC(C2CCC(C)(C)[NH+:10]2[H:20])N1.CC[N:21]1CC1 10=20;20,21=21",
"Cc1cc(N)[n+:21]([H:20])c2ccc3ccccc3c12.[O-]c1[nH+]cnc2c1[nH]c[n:10]2>>Cc1cc(N)[n:21]c2ccc3ccccc3c12.[O-]c1[nH+]cnc2c1[nH]c[n+:10]2[H:20] 10=20;20,21=21",
"C1CC[N:10]2CCCCN2C1.N#CCC(=O)N[NH2+:21][H:20]>>C1CC[N+:10]2([H:20])CCCCN2C1.N#CCC(=O)N[NH2:21] 10=20;20,21=21",
"CC(C)[C@@H]1CC[C@@H](C)C[C@@H]1[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)[C@@H]1CC[C@@H](C)C[C@@H]1[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"O=C(C#CC[NH+]1CCOCC1)[O:21][H:20].O=C1NC(=O)[N-:10]C(=O)C1=NO>>O=C(C#CC[NH+]1CCOCC1)[O-:21].O=C1NC(=O)[N:10]([H:20])C(=O)C1=NO 10=20;20,21=21",
"CC1=CC=C(S(=O)(=O)[NH:21][H:20])C=C1.Cc1cc(C)c2c(c1)c(N)cc(C)[n:10]2>>CC1=CC=C(S(=O)(=O)[NH-:21])C=C1.Cc1cc(C)c2c(c1)c(N)cc(C)[n+:10]2[H:20] 10=20;20,21=21",
"Cc1ccc(C[NH2+:21][H:20])cc1.[NH-]S(=O)(=O)c1cc2c(cc1Cl)NC[N-:10]S2(=O)=O>>Cc1ccc(C[NH2:21])cc1.[NH-]S(=O)(=O)c1cc2c(cc1Cl)NC[N:10]([H:20])S2(=O)=O 10=20;20,21=21",
"C=C/C(C)=C/[C@@H](C)C(=O)C[C@@H](O)CC1CC(=O)[N:21]([H:20])C(=O)C1.Cc1nnc([N-]S(=O)(=O)c2ccc([O-:10])cc2)s1>>C=C/C(C)=C/[C@@H](C)C(=O)C[C@@H](O)CC1CC(=O)[N-:21]C(=O)C1.Cc1nnc([N-]S(=O)(=O)c2ccc([O:10][H:20])cc2)s1 10=20;20,21=21",
"CNC(=N)CC[N:21](S(=O)(=O)c1ccc(C)cc1)[H:20].COc1nc(C)cc([O-])[n:10]1>>CNC(=N)CC[N-:21]S(=O)(=O)c1ccc(C)cc1.COc1nc(C)cc([O-])[n+:10]1[H:20] 10=20;20,21=21",
"CC(C)[NH:10]CCC#N.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)[NH+:10](CCC#N)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)[NH:10][C@H](c1ccccc1)[C@H](O)c1ccccc1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC(C)[NH+:10]([C@H](c1ccccc1)[C@H](O)c1ccccc1)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"Fc1cccc([N:21](C=S)[H:20])c1.Nc1ccc(O)c2c1ccc[n:10]2>>Fc1cccc([N-:21]C=S)c1.Nc1ccc(O)c2c1ccc[n+:10]2[H:20] 10=20;20,21=21",
"CCc1c([O-:10])ccc(C(C)C)c1C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCc1c([O:10][H:20])ccc(C(C)C)c1C.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC/C=C/CC(=O)[O-:10].O=C([C@@H]1CCCC[C@@H]1O)[O:21][H:20]>>CC/C=C/CC(=O)[O:10][H:20].O=C([C@@H]1CCCC[C@@H]1O)[O-:21] 10=20;20,21=21",
"COc1ccc(-c2nc3c[n+:21]([H:20])ccc3n2C)c(OC)c1.O[C@H]1CCCC[C@H]1[NH2:10]>>COc1ccc(-c2nc3c[n:21]ccc3n2C)c(OC)c1.O[C@H]1CCCC[C@H]1[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)NC=[N+:21](c1ccc(-c2cn(C)cn2)cc1)[H:20].Cc1cc([O-:10])nn1-c1ccccc1C(=O)[O-]>>CC(C)NC=[N:21]c1ccc(-c2cn(C)cn2)cc1.Cc1cc([O:10][H:20])nn1-c1ccccc1C(=O)[O-] 10=20;20,21=21",
"Cc1cc(C)c(C)c([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(C)c(C)c([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[NH+]1C[C@@H](C(=O)[O-:10])C=C2c3cccc4[nH]cc(c34)C[C@@H]21.O=C(CCCc1c[nH]c2ccccc12)[O:21][H:20]>>C[NH+]1C[C@@H](C(=O)[O:10][H:20])C=C2c3cccc4[nH]cc(c34)C[C@@H]21.O=C(CCCc1c[nH]c2ccccc12)[O-:21] 10=20;20,21=21",
"COc1cc[n:10]cc1.COc1cccc(OC)c1[O:21][H:20]>>COc1cc[n+:10]([H:20])cc1.COc1cccc(OC)c1[O-:21] 10=20;20,21=21",
"CN(CC[NH+](C)C)c1cc[n:10]c2cccc([N+](=O)[O-])c12.[NH3+]CCC(=O)NC(Cc1c[nH]c[n+:21]1[H:20])C(=O)[O-]>>CN(CC[NH+](C)C)c1cc[n+:10]([H:20])c2cccc([N+](=O)[O-])c12.[NH3+]CCC(=O)NC(Cc1c[nH]c[n:21]1)C(=O)[O-] 10=20;20,21=21",
"CC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(C(F)(F)F)C=C2)[H:20])C=C1>>CC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(C(F)(F)F)C=C2)C=C1 10=20;20,21=21",
"CC[NH2+]CC[Se-:10].CSC1=NC(C)=C/C(=[O+:21]/[H:20])N1C>>CC[NH2+]CC[Se:10][H:20].CSC1=NC(C)=CC(=[O:21])N1C 10=20;20,21=21",
"Cc1cc(C)c2c(c1)c(N)cc(C)[n:10]2.Nc1ccc(S(=O)(=O)[N:21](c2cccc[n+]2[O-])[H:20])cc1>>Cc1cc(C)c2c(c1)c(N)cc(C)[n+:10]2[H:20].Nc1ccc(S(=O)(=O)[N-:21]c2cccc[n+]2[O-])cc1 10=20;20,21=21",
"Fc1ccc2[nH]c[n:10]c2c1.O=S(=O)(NCc1ccco1)c1ccc([NH2+:21][H:20])cc1>>Fc1ccc2[nH]c[n+:10]([H:20])c2c1.O=S(=O)(NCc1ccco1)c1ccc([NH2:21])cc1 10=20;20,21=21",
